US07897762B2
To a solution of 1-ethyl-3-(4-fluoro-3-nitrophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (2.4 g, 6.5 mmol) in ethyl acetate and methanol (1:1, 40 mL) was added Pd/C (230 mg) and the mixture was hydrogenated (55 psi) in a Parr shaker for 2 days. The reaction mixture was filtered and the filter cake was washed with methanol. The combined filtrates were concentrated in vacuo. The residue was dissolved in THF and the solid was filtered. The filtrate was concentrated and purified by silica gel column chromatography to obtain 3-(3-amino-4-fluorophenyl)-1-ethyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (0.65 g, 30% yield). 1H-NMR (400 MHz, DMSO-d6): δ 8.20 (s, 1 H), 6.97 (m, 1 H), 6.70 (dd, J=8.0, 2.4 Hz, 1 H), 6.46 (m, 1 H), 5.21 (s, 2 H), 4.64 (s, 2 H), 3.94 (q, J=6.8 Hz, 2 H), 2.48 (s, 3 H), 1.15 (t, J=6.8 Hz, 3 H); MS (ESI) m/z: 334.1 (M+H+).

reactant | 1-ethyl-3-(4-fluoro-3-nitrophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 6.5 mmol, 2.4 g | C(C)N1C(N(CC=2C1=NC(=NC2)SC)C2=CC(=C(C=C2)F)[N+](=O)[O-])=O | C15H14FN5O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 40 mL | CO | CH4O
catalyst | Pd/C | 230 mg | [Pd] | Pd
product | 3-(3-amino-4-fluorophenyl)-1-ethyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.65 g, 30% yield | NC=1C=C(C=CC1F)N1C(N(C2=NC(=NC=C2C1)SC)CC)=O | C15H16FN5OS
